US08242153B2
To a stirred solution of lithiumaluminiumhydride (41 mg) in dry tetrahydrofuran (2 ml) was added dropwise under an argon atmosphere a solution of {(S)-2-azido-3-[1-(4-fluoro-phenyl)-1-methyl-ethoxy]-propoxy}-tert-butyl-dimethyl-silane (200 mg) in dry tetrahydrofuran (0.5 ml). The reaction mixture was stirred at room temperature for 48 hours and quenched by addition of water (0.04 ml), NaOH 4 N (0.04 ml) and H2O (0.12 ml). The suspension was stirred for 30 min and was filtered through Celite and MgSO4. The filtrate was evaporated to give crude (R)-2-amino-3-[1-(4-fluoro-phenyl)-1-methyl-ethoxy]-propan-1-ol (128 mg) as a light yellow liquid. MS (ISP): 228.3 ([M+H]+)

reactant | lithiumaluminiumhydride | 41 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | {(S)-2-azido-3-[1-(4-fluoro-phenyl)-1-methyl-ethoxy]-propoxy}-tert-butyl-dimethyl-silane | 200 mg | N(=[N+]=[N-])[C@H](CO[Si](C)(C)C(C)(C)C)COC(C)(C)C1=CC=C(C=C1)F | C18H30FN3O2Si
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | (R)-2-amino-3-[1-(4-fluoro-phenyl)-1-methyl-ethoxy]-propan-1-ol | 128 mg | N[C@H](CO)COC(C)(C)C1=CC=C(C=C1)F | C12H18FNO2
